US06245790B1
To a solution of 2-[hydroxy-(3-methoxy-2-methylphenyl)-methyl]cyclohexanone (1.85 g) in THF (20 ml) was added conc. HCl (0.5 ml) at 5° C. and the mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with EtOAc, washed with saturated sodium hydrogen carbonate, water, and brine, dried over magnesium sulfate, evaporated in vacuo. The residue was dissolved in MeOH (30 ml) and 10% Pd/C (wet) (400 mg) was added. The mixture was stirred under hydrogen atmosphere at room temperature for 2 hours. The catalyst was removed by filtration and the filtrate was evaporated. The residue was pufified by silica gel column chromatography (hexane-EtOAc 12:1 to 8:1) to give 2-(3-methoxy-2-methylbenzyl)cyclohexanone (980.6 mg) as an oil.

reactant | 2-[hydroxy-(3-methoxy-2-methylphenyl)-methyl]cyclohexanone | 1.85 g | OC(C1C(CCCC1)=O)C1=C(C(=CC=C1)OC)C | C15H20O3
reactant | HCl | 0.5 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(3-methoxy-2-methylbenzyl)cyclohexanone | 980.6 mg | COC=1C(=C(CC2C(CCCC2)=O)C=CC1)C | C15H20O2
